US07939527B2
Intermediate 10: 2-Chloro[1,3]thiazolo[5,4-c]pyridine
To an ice-cold mixture of dimethylformamide (DMF, 1.1 mL) and DCE (8 mL) was added dropwise a solution of oxalyl chloride (1.73 mL) in DCE (4 mL). A white precipitate formed, and the reaction mixture was stirred at rt for 5 min. [1,3]Thiazolo[5,4-c]pyridine-2(1H)-thione (1 g, 6 mmol) was added in portions, and the reaction mixture was stirred at reflux for 3 h. After cooling to rt, the reaction mixture was treated with water (20 mL) and saturated (satd.) aqueous (aq.) NaHCO3 (100 mL) and then extracted with ethyl acetate (EtOAc) (2×100 mL). The combined organic layers were dried, filtered and concentrated to provide the desired product as a brown solid (1 g, 87%). 1H NMR (400 MHz, CDCl3): 9.11 (d, J=0.8, 1H), 8.68 (d, J=5.6, 1H), 7.85 (dd, J=5.6, 0.8, 1H). MS (ESI): mass calcd. for C6H3ClN2S, 169.97; m/z found, 171.0 [M+H]+.

reactant | dimethylformamide | 1.1 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.73 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | [1,3]Thiazolo[5,4-c]pyridine-2(1H)-thione | 6 mmol, 1 g | N1C(SC=2C=NC=CC21)=S | C6H4N2S2
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCE | 4 mL | ClCCCl | C2H4Cl2
solvent | DCE | 8 mL | ClCCCl | C2H4Cl2
solvent | water | 20 mL | O | H2O
product | 2-Chloro[1,3]thiazolo[5,4-c]pyridine | 1 g, 87% | ClC=1SC=2C=NC=CC2N1 | C6H3ClN2S
